US08466282B2
1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-5-(thiophen-2-yl)-1H-pyrrole-2-carboxamide
tert-Butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-5-(thiophen-2-yl)-1H-pyrrol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (65 mg) was dissolved in ethyl acetate (2 ml), 4N hydrogen chloride-ethyl acetate (5 ml) was added and the mixture was stirred for 1 hr. The solvent was evaporated under reduced pressure, and the residue was subjected to reversed-phase preparative HPLC and the eluted fraction was concentrated under reduced pressure. The residual aqueous layer was neutralized with saturated aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give the object product (20 mg).

reactant | tert-Butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-5-(thiophen-2-yl)-1H-pyrrol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 65 mg | COCCCCN1C(=CC=C1C=1SC=CC1)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C33H50N4O6S
reactant | hydrogen chloride-ethyl acetate | 4N, 5 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-5-(thiophen-2-yl)-1H-pyrrole-2-carboxamide | 20 mg | COCCCCN1C(=CC=C1C=1SC=CC1)C(=O)N([C@@H]1CNC[C@@H](C1)C(=O)N1CCOCC1)CC(C)C | C28H42N4O4S
